US04076821
A mixture of 14.3 g of 4,4-bis(p-fluorophenyl)cyclohexanone, 14 g of 4-(4-chloro-3-trifluoromethylphenyl)-4-piperidinol, 0.5 g of p-toluenesulfonic acid and 100 ml of toluene is stirred under reflux for 145 hours, water formed being removed as an azeotropic mixture with toluene. The toluene is then removed, and the residual oil is dissolved in 100 ml of 90% methanol. To the solution is added slowly 19 g of sodium borohydride under cooling. After the addition is complete, the methanol is removed under reduced pressure, water is added to the residue, and the aqueous mixture is extracted with chloroform. The extract is washed with water and dried over sodium sulfate. The residual oil is purified by column chromatography on silica gel using a mixture of chloroform and methanol (9:1) as an eluent. The objective base thus obtained is converted in a conventional manner into the hydrochloride. Thus is obtained 1-[4,4-bis(p-fluorophenyl)cyclohexyl]-4-(4-chloro-3-trifluoromethylphenyl)-4-piperidinol hydrochloride as colorless crystals, melting at 274°-277° C.

reactant | 4,4-bis(p-fluorophenyl)cyclohexanone | 14.3 g | FC1=CC=C(C=C1)C1(CCC(CC1)=O)C1=CC=C(C=C1)F | C18H16F2O
reactant | 4-(4-chloro-3-trifluoromethylphenyl)-4-piperidinol | 14 g | ClC1=C(C=C(C=C1)C1(CCNCC1)O)C(F)(F)F | C12H13ClF3NO
reactant | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydrochloride | Cl | ClH
solvent | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[4,4-bis(p-fluorophenyl)cyclohexyl]-4-(4-chloro-3-trifluoromethylphenyl)-4-piperidinol hydrochloride | Cl.FC1=CC=C(C=C1)C1(CCC(CC1)N1CCC(CC1)(O)C1=CC(=C(C=C1)Cl)C(F)(F)F)C1=CC=C(C=C1)F | InChI=1S/C30H29ClF5NO.ClH/c31-27-10-5-22(19-26(27)30(34,35)36)29(38)15-17-37(18-16-29)25-11-13-28(14-12-25,20-1-6-23(32)7-2-20)21-3-8-24(33)9-4-21;/h1-10,19,25,38H,11-18H2;1H
